US08476297B2
Step 1. Ethyl 1-isoquinoline-carboxylate chloride
Isoquinoline (5.50 g, 42.5 mmol) was dissolved into 50 mL of anhydrous THF and ethyl chloroformate (4.47 mL, 46.8 mmol) was added slowly. The resulting pale yellow mixture was stirred at RT for 30 min. Then, the resulting precipitate was collected via filtration through a cintered glass funnel and dried under vacuum for 2 days to yield the title compound as a pale yellow solid.

reactant | Isoquinoline | 42.5 mmol, 5.50 g | C1=NC=CC2=CC=CC=C12 | C9H7N
reactant | ethyl chloroformate | 46.8 mmol, 4.47 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 1-isoquinoline-carboxylate chloride | [Cl-].C1(=NC=CC2=CC=CC=C12)C(=O)OCC | InChI=1S/C12H11NO2.ClH/c1-2-15-12(14)11-10-6-4-3-5-9(10)7-8-13-11;/h3-8H,2H2,1H3;1H/p-1
